US09416132B2
To the solution of compound (tetrahydro-2H-pyran-4-yl)methanol (100 mg, 0.86 mmol) and compound 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine (270 mg, 0.86 mmol) in 10 mL dioxane was added t-BuOK (200 mg, 1.78 mmol). The mixture was stirred at 70° C. for 4 hrs. Then the mixture was purified by Pre-HPLC to afford the compound 6-((tetrahydro-2H-pyran-4-yl)methoxy)-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine (25 mg, 12%) as a white solid.

reactant | (tetrahydro-2H-pyran-4-yl)methanol | 0.86 mmol, 100 mg | O1CCC(CC1)CO | C6H12O2
reactant | 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine | 0.86 mmol, 270 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F | C13H7ClF3N3O
reactant | t-BuOK | 1.78 mmol, 200 mg | CC(C)(C)[O-].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 6-((tetrahydro-2H-pyran-4-yl)methoxy)-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine | 25 mg, 12% | O1CCC(CC1)COC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F | C19H18F3N3O3
